US05723490
4-Hydroxypiperidine (10.8 g, 107 mmol) and Et3N (17 mL, 123 mmol) in 80 mL of CH2Cl2 was cooled in an ice bath whereupon benzyl chloroformate (16.3 mL, 114 mmol) was added. After stirring 1.5 h at R.T. the mixture was subjected to standard work-up conditions to give 13.9 g (55%) of N-Cbz-piperidine after chromatography (CHCl3 /MeOH; 10:1). [1H]-NMR(CDCl3) consistent with structure.

reactant | 4-Hydroxypiperidine | 107 mmol, 10.8 g | OC1CCNCC1 | C5H11NO
reactant | Et3N | 123 mmol, 17 mL | CCN(CC)CC | C6H15N
reactant | benzyl chloroformate | 114 mmol, 16.3 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | N-Cbz-piperidine | 13.9 g, 55% | C(=O)(OCC1=CC=CC=C1)N1CCCCC1 | C13H17NO2
